US08084614B2
3-Bromo-4-chloro-benzoyl chloride in DCM (200 mL) was cooled in an ice bath and triethylamine (11.1 mol, 80 mmol) was added slowly, followed by the drop-wise addition of o-anisidine (4.5 mL, 40 mmol) in DCM (50 mL). At this time the ice bath was removed and the mixture was stirred for 12 hrs, followed by partition between DCM and water. The organic layer was washed with 1 N HCl, saturated NaHCO3, brine and dried over MgSO4. Concentration of the filtrate yielded 3-bromo-4-chloro-N-(2-methoxy-phenyl)-benzamide as a pinkish solid (13.5 g).

reactant | 3-Bromo-4-chloro-benzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1Cl | C7H3BrCl2O
reactant | triethylamine | 11.1 mol | C(C)N(CC)CC | C6H15N
reactant | o-anisidine | 40 mmol, 4.5 mL | COC=1C(=CC=CC1)N | C7H9NO
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-chloro-N-(2-methoxy-phenyl)-benzamide | 13.5 g | BrC=1C=C(C(=O)NC2=C(C=CC=C2)OC)C=CC1Cl | C14H11BrClNO2
